US03984336
β-n-Dodecylmercaptopropionitrile was prepared according to the procedure of Example 1 using 1-dodecanethiol (24.75 g; 0.12 moles), acrylonitrile (6.4 g; 0.21 moles) and sodium methoxide (0.5 g).

reactant | 1-dodecanethiol | 0.12 moles, 24.75 g | C(CCCCCCCCCCC)S | C12H26S
reactant | acrylonitrile | 0.21 moles, 6.4 g | C(C=C)#N | C3H3N
reactant | sodium methoxide | 0.5 g | C[O-].[Na+]
product | β-n-Dodecylmercaptopropionitrile | C(CCCCCCCCCCC)SCCC#N | C15H29NS
